US06526828B1
a) Synthesis of p-bromomethyl phenyl boronic acid-neopentyl ester (8)
p-Toluene boronic acid (750 mg.) and neopentyl glycol (600 mg.) were dissolved in 50 ml cyclohexane and heated at reflux for 1.5 hours. N-Bromosuccinimide (1.15 g.), benzoyl peroxide (25 mg.) and 150 ml cyclohexane were added and the solution was heated at reflux for additional 2 hours. The solution was cooled to room temperature, filtered and evaporated to give a mixture of 8 and 8a (total of 1.3 g, ˜1:1 ratio), the yield of 8=47%.

reactant | p-Toluene boronic acid | 750 mg | C1(=CC=C(C=C1)B(O)O)C | C7H9BO2
reactant | neopentyl glycol | 600 mg | OCC(C)(CO)C | C5H12O2
reactant | N-Bromosuccinimide | 1.15 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 25 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | cyclohexane | 50 ml | C1CCCCC1 | C6H12
solvent | cyclohexane | 150 ml | C1CCCCC1 | C6H12
product | p-bromomethyl phenyl boronic acid-neopentyl ester | C(C(C)(C)C)OB(O)C1=CC=C(C=C1)CBr | C12H18BBrO2
